US09290451B2
c) 6-Cyclopropylmethoxy-5-(2-oxo-pyrrolidin-1-yl)-pyridine-2-carboxylic acid
Under nitrogen atmosphere, pyrrolidin-2-one (375 mg, 4.4 mmol), dimethylbisdiphenyl-phosphinoxanthene (CAS 161265-03-8, 127 mg, 2.4 mmol), tris(dibenzylideneacetone)dipalladium (CAS 51364-51-3, 67 mg, 0.1 mmol) and cesium carbonate (CAS 534-17-8, 1.8 g, 6 mmol) in 1,4-dioxane (100 mL) were added to a solution of 5-bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 9 d, 1 g, 4 mmol) and the reaction mixture was stirred overnight at 110° C. The reaction mixture was concentrated in vacuo, dissolved in water and extracted with ethyl acetate (3×30 mL). The aqueous layer was adjusted to pH=2 with aqueous solution of hydrochloride (1N), the resulting precipitate was collected by filtration and dried. The crude product was purified by column chromatography (silica gel, 20 g, eluting with 30% ethyl acetate in petroleum ether) to give the desired product (600 mg) as a yellow solid; MS (EI): m/e=277.1 [M+H]+.

reactant | pyrrolidin-2-one | 4.4 mmol, 375 mg | N1C(CCC1)=O | C4H7NO
reactant | cesium carbonate | 6 mmol, 1.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | 4 mmol, 1 g | BrC=1C=CC(=NC1OCC1CC1)C(=O)O | C10H10BrNO3
solvent | 1,4-dioxane | 100 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.1 mmol, 67 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 6-Cyclopropylmethoxy-5-(2-oxo-pyrrolidin-1-yl)-pyridine-2-carboxylic acid | 600 mg | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1C(CCC1)=O | C14H16N2O4
